US09238631B2
c) di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[1-(2-fluoroethyl)-1H-1,2,3-triazol-4-yl]methyl}-L-glutamate
Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[1-(2-hydroxyethyl)-1H-1,2,3-triazol-4-yl]methyl}-L-glutamate (74 mg, 152.7 μmol) was dissolved in tetrahydrofuran (5 ml) and triethyl amine (319 μl, 2.3 mmol), Nonafluorobutanesulfonyl fluoride (185 mg, 611 μmol), and Triethylamine trihydrofluoride (98 mg, 611 mmol) were added subsequently. The mixture was stirred at room temperature for 6 days. The mixture was than concentrated in vacuo, and the residue was purified by silica gel chromatography to yield 30 mg (40%) of slightly impure product, which was used in the following step.

reactant | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[1-(2-hydroxyethyl)-1H-1,2,3-triazol-4-yl]methyl}-L-glutamate | 152.7 μmol, 74 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC=1N=NN(C1)CCO)C(=O)OC(C)(C)C | C23H40N4O7
reactant | triethyl amine | 2.3 mmol, 319 μl | C(C)N(CC)CC | C6H15N
reactant | Nonafluorobutanesulfonyl fluoride | 611 μmol, 185 mg | FC(C(C(S(=O)(=O)F)(F)F)(F)F)(C(F)(F)F)F | C4F10O2S
reactant | Triethylamine trihydrofluoride | 611 mmol, 98 mg | F.F.F.C(C)N(CC)CC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[1-(2-fluoroethyl)-1H-1,2,3-triazol-4-yl]methyl}-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC=1N=NN(C1)CCF)C(=O)OC(C)(C)C | C23H39FN4O6
